.subckt NAND2 VDD 0 A B OP
    
    * Parameters
    .PARAM Lmin=16n
    .PARAM Wmin=16n
    .PARAM Ldiff=32n

    *NAND2
    Mp1 OP A VDD VDD pmos W={2*{Wmin}} L={Lmin}
    MP2 OP B VDD VDD pmos W={2*{Wmin}} L={Lmin}
    Mn1 OP A T 0 nmos W={2*{Wmin}} L={Lmin}
    Mn2 T B 0 0 nmos W={2*{Wmin}} L={Lmin}

.ends NAND2