.subckt NOR2 VDD 0 A B OP

    * Parameters
    .PARAM Lmin=16n
    .PARAM Wmin=16n
    .PARAM Ldiff=32n

    * NOR2
    Mp1 T A VDD VDD pmos W={4*{Wmin}} L={Lmin}
    Mp2 OP B T VDD pmos W={4*{Wmin}} L={Lmin}
    Mn1 OP A 0 0 nmos W={{Wmin}} L={Lmin}
    Mn2 OP B 0 0 nmos W={{Wmin}} L={Lmin}

.ends NOR2