.subckt NOT VDD 0 A OP

    * Parameters
    .PARAM Lmin=16n
    .PARAM Wmin=16n
    .PARAM Ldiff=32n

    * NOT
    Mp OP A VDD VDD pmos W={2*{Wmin}} L={Lmin}
    Mn OP A 0 0 nmos W={Wmin} L={Lmin}

.ends NOT