.subckt XOR2 VDD 0 A B OP

    .INCLUDE NAND2.sub
    .INCLUDE NOR2.sub
    .INCLUDE NOT.sub

    * XOR2 
    X1 VDD 0 A B ANDB NAND2
    X2 VDD 0 A B ORB NOR2
    X3 VDD 0 ANDB ORB OP NAND2
    X4 VDD 0 OP O NOT

.ends XOR2
