*Leakage current/power in NAND2 cell
*.INCLUDE ../model/45nm_MGK.pm
*.INCLUDE ../model/32nm_MGK.pm
.INCLUDE ../45nm_HP.pm


.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM Ldiff=90n
*.PARAM tr=50p
.PARAM Coutp=1f

Mp1	nodeZ	nodea	node1	node1	pmos	W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp2	nodeZ	nodeb	node1	node1	pmos	W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Mn1	node4	nodeb	0	0	nmos	W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn2	nodeZ	nodea	node4	0	nmos	W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vdd 	node1 	0 	1

Vina nodea 0 0
Vinb nodeb 0 0

*Definition of type of analysis

.TRAN 0.1p 3600p
.PRINT tran V(nodea) V(nodeb) V(nodeZ)

.meas tran delay_LH trig v(nodea) val=0.5 fall=1 targ v(nodeZ) val=0.5 rise=1
.meas tran delay_HL trig v(nodea) val=0.5 rise=1 targ v(nodeZ) val=0.5 fall=1

.CONTROL
run
.ENDC
.END
